US06011077
1-[4-(2,2-Dimethoxyethoxy)phenyl]-2-hydroxy-2-methylpropan-1-one
10 g (55.5 mmol) of 2-hydroxy-1-(4-hydroxyphenyl)-2-methylpropan-1-one are dissolved in 50 g of methanol together with 2.22 g (55.5 mmol) of NaOH, and kept at 150° C. for 5 hours in a bomb tube with 20 g of chloroacetaldehyde dimethyl acetal. The reaction mixture is evaporated, and the residue is dissolved in ether and washed with 0.1 N NaOH. The crude product (14.8 g) is crystallized from ether/petroleum ether, giving 9.8 g (65% of theory) of a beige product of m.p. 52-53° C.

reactant | 2-hydroxy-1-(4-hydroxyphenyl)-2-methylpropan-1-one | 55.5 mmol, 10 g | OC(C(=O)C1=CC=C(C=C1)O)(C)C | C10H12O3
reactant | NaOH | 55.5 mmol, 2.22 g | [OH-].[Na+]
reactant | chloroacetaldehyde dimethyl acetal | 20 g | COC(CCl)OC | C4H9ClO2
solvent | methanol | 50 g | CO | CH4O
product | 1-[4-(2,2-Dimethoxyethoxy)phenyl]-2-hydroxy-2-methylpropan-1-one | COC(COC1=CC=C(C=C1)C(C(C)(C)O)=O)OC | C14H20O5
